US08633312B2
2-Formyl-5-methoxy-benzoic acid (3)
10 g (61 mmol) of 6-methoxyphthalide, 11.4 g (64.0 mmol) of NBS and 200 ml of chlorobenzene are mixed, while stirring, the suspension is heated to 85° C. and 2 ml of a solution of 100 mg of AIBN in 10 ml of chlorobenzene are added. In the course of a few minutes, the temperature rises to 110° C. and a red solution forms. After the rise in-temperature has subsided, the remaining 8 ml are added and the mixture is stirred at 85° C. for 40 min. After cooling to 0° C., the succinimide which has precipitated out is filtered off and rinsed with chlorobenzene. The filtrate is concentrated until an oily residue forms, which is taken up in 10% strength NaOH solution, and the mixture is washed three times with 300 ml of methylene chloride each time. After acidification of the aqueous phase with concentrated HCl, the mixture is stirred at 0° C. for 1 hour. The acid thereby precipitates out in the form of a white precipitate, which is filtered off.

reactant | 6-methoxyphthalide | 61 mmol, 10 g | COC1=CC=C2COC(=O)C2=C1 | C9H8O3
reactant | NBS | 64.0 mmol, 11.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 100 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | chlorobenzene | 10 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-Formyl-5-methoxy-benzoic acid | C(=O)C1=C(C(=O)O)C=C(C=C1)OC | C9H8O4
